US07601729B2
1,1-Dimethylethyl 2-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-5-(4-iodophenyl)-3-oxopentanoate
A solution of 5-(4-iodo-phenyl)-3-oxo-pentanoic acid tert-butyl ester (10.0 g, 26.7 mmol) in dimethylformamide (25 mL) was added dropwise over 20 min to a stirred suspension of sodium hydride (60% mineral oil suspension; 1.12 g, 28.0 mmol) in dimethylformamide (25 mL) at 0° C. under nitrogen. After stirring for 20 min (2-bromoethoxy)-t-butyldimethylsilane (7.03 g, 6.31 mL, 29.4 mmol) was added dropwise over 20 min at 0° C. then the reaction heated to 70° C. for 3.5 h. On cooling to room temperature the reaction was quenched by careful addition of water (2 mL) then the volatiles evaporated. The residue was partitioned between saturated aqueous ammonium chloride solution (150 mL) and dichloromethane (150 mL) and the phases separated. The aqueous phase was washed with dichloromethane (3×150 mL) then the organic phases combined, washed with brine (150 mL), dried (sodium sulfate) and the solvent evaporated. The residue was chromatographed on silica gel (25% diethyl ether: cyclohexane) to give the title compound (10.0 g, 70%) as colourless oil which was a mixture of diastereomers. LC/MS: 4.55 min; z/e 533, calcd (M+1) 533. 1H NMR (400 MHz: CDCl3): 7.55 (2H), 6.90 (2H), 3.55 (3H), 2.85 (4H), 2.15 (2H minor), 1.95 (2H major), 1.40 (9H), 0.85 (9H), 0.5 (6H).

reactant | 5-(4-iodo-phenyl)-3-oxo-pentanoic acid tert-butyl ester | 26.7 mmol, 10.0 g | C(C)(C)(C)OC(CC(CCC1=CC=C(C=C1)I)=O)=O | C15H19IO3
reactant | sodium hydride | 28.0 mmol, 1.12 g | [H-].[Na+]
reactant | (2-bromoethoxy)-t-butyldimethylsilane | 29.4 mmol, 6.31 mL, 7.03 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 1,1-Dimethylethyl 2-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-5-(4-iodophenyl)-3-oxopentanoate | 10.0 g, 70% | CC(C)(C)[Si](OCCC(C(=O)OC(C)(C)C)C(CCC1=CC=C(C=C1)I)=O)(C)C | C23H37IO4Si
